US04298602
1-(2-Pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol
A reaction mixture was prepared by suspending 457.6 g (3 m) of 2-pyridinyl-hydrazine carboxamide in 2600 ml of triethylorthoacetate and the mixture refluxed for about 9 hours. The ethanol by-product formed was continuously removed by distillation allowing the reaction temperature to stay at 125°-130° C. The 1-(2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol product was recovered by filtration in a yield of 116 g (66 percent of theoretical) and was washed with chloroform. The product melted at 194°-195° C. and upon analysis was found to have carbon hydrogen and nitrogen contents of 53.87, 4.55 and 31.95 percent, respectively, as compared with the theoretical contents of 54.53, 4.57 and 31.80 percent, respectively, calculated for the above named compound.

reactant | 2-pyridinyl-hydrazine carboxamide | 457.6 g | N1=C(C=CC=C1)NNC(=O)N | C6H8N4O
reactant | ethanol | C(C)O | C2H6O
solvent | triethylorthoacetate | 2600 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
product | 1-(2-Pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol | N1=C(C=CC=C1)N1N=C(N=C1C)O | C8H8N4O
